US05821240
(51) 4-[(3-Chloro-4-fluorophenyl)amino]-6-[(1-methyl-4-piperidinyl)methylamino]pyrimido[5,4-d]pyrimidine
Prepared from 4-[(3-chloro-4-fluorophenyl)amino]-6-[4-piperidinylmethylamino]pyrimido[5,4-d]pyrimidine by reaction with trifluoroacetic acid and subsequent reductive amination with formaldehyde and sodium cyanoborohydride. Melting point: 198°-201° C.; Rf : 0.65 (alumina; methylene chloride/methanol=20:1)

reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-[4-piperidinylmethylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NCC2CCNCC2 | C18H19ClFN7
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | formaldehyde | C=O | CH2O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 4-[(3-Chloro-4-fluorophenyl)amino]-6-[(1-methyl-4-piperidinyl)methylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NCC2CCN(CC2)C | C19H21ClFN7
